US06322950B1
Synthesis of 2-(3-ethyl-2(3H)-benzothiazolylidene)-1,3-dihydro-1-oxo-3-phenyl-2H-indene (D14)
A flask was charged with 1.2 g (30 mmol) of sodium hydride (60 wt %), and 100 ml of THF was added thereto in a stream of nitrogen and stirred to make a suspension. While ice-cooling, to this was added 5.9 g (15 mmol) of 3-ethyl-2-(ethylthio)-2(3H)-benzothiazolium 4-methylbenzenesulfonate powder in small portions. Next, to this was added dropwise 50 ml of THF solution containing 6.24 g (30 mmol) of 3-phenyl-1-indanone. The reaction solution was stirred under ice-cooling for 3 hours and at room temperature for 3 hours and then mixed with 20 ml of methanol. When the reaction solution was poured in small portions into a stirred mixed solution of 100 ml of water and 100 ml of methanol, yellow crude crystals were obtained. The crude crystals were suspended in 100 ml of methanol, refluxed, purified and then collected by filtration, thereby obtaining 1.23 g (3.33 mmol) of yellow crystals of D14. Yield was 22%. Its structure was identified by nuclear magnetic resonance spectrum, infrared absorption spectrum, mass spectrometry spectrum and elemental analysis (found; carbon 78.00%, hydrogen 5.15% calcd.; carbon 78.02%, hydrogen 5.18%).

reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | 3-ethyl-2-(ethylthio)-2(3H)-benzothiazolium 4-methylbenzenesulfonate | 15 mmol, 5.9 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C(C)N1[CH2+](SC2=C1C=CC=C2)SCC
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | 3-phenyl-1-indanone | 30 mmol, 6.24 g | C1(=CC=CC=C1)C1CC(C2=CC=CC=C12)=O | C15H12O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-(3-ethyl-2(3H)-benzothiazolylidene)-1,3-dihydro-1-oxo-3-phenyl-2H-indene | 3.33 mmol, 1.23 g, Yield was 22% | C(C)N1C(SC2=C1C=CC=C2)=C2C(C1=CC=CC=C1C2C2=CC=CC=C2)=O | C24H19NOS
